US06110962
11-(3,5-dibromo-4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene
Iodomethane (0.383 mL, 6.16.mmol) was added to a stirred suspension of 2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol (2.13 g, 4.4 mmol), potassium carbobnate (0.669 g, 4.34 mmol) and DMF (15 mL) at room temperature under a dry nitrogen atmosphere. After 3 h, the reaction mixture was diluted with water and the resulting solid was filtered and washed with water. The solid was taken up in dichloromethane and silica gel (40 mL) was added. The solvent was removed and the adsorbate was flash chromatographed (90:10 petroleum ether:dichloromethane) to provide the title compound as a white solid (2.0 g, 91%): mp 238.5-239.5° C.: NMR (CDCl3); δ 8.36 (ddd, J=8, 1, 1 Hz, 1H), 7.84 (ddd, J=8, 1, 1 Hz, 1H), 7.67 (ddd, J=8, 7, 1 Hz, 1H), 7.60 (s, 2H), 7.58 (ddd, J=8, 1, 1 Hz, 1H), 7.50 (ddd, J=8, 7, 1 Hz, 1H), 7.45 (ddd, J=8, 7, 1 Hz, 1H), 7.20 (ddd, J=8, 7, 1 Hz, 1H), 6.80 (ddd, J=8, 1, 1 Hz, 1H), 4.11 (s, 3H, CH3); MS (EI): [M+], 3 bromine isotope pattern, 574 (35%), 576 (95%) 578 (100%) 580 (45%); Anal. Calc. for C23H13Br3OS: C, 47.87, H, 2.27, N, 0.00. Found: C, 47.73, H, 1.88, N, 0.03.

reactant | Iodomethane | 0.383 mL | IC | CH3I
reactant | 2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol | 4.4 mmol, 2.13 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)O | C22H11Br3OS
reactant | potassium | [K] | K
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 11-(3,5-dibromo-4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene | 2.0 g, 91% | BrC=1C=C(C=C(C1OC)Br)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=CC=C1 | C23H14Br2OS
